US04665073
A mixture of 4-[4-(3-[2,2,2-trifluoroethyl]thioureido)pyrimid-2-ylthio]butyronitrile (0.32 g.), saturated ethanolic ammonia (20 ml.) and yellow mercuric oxide (0.5 g.) was stirred at room temperature for 20 hours and then filtered and the filtrate evaporated to dryness. The residue was recrystallised from a mixture of acetone and petroleum ether (b.p. 60°-80°) to give 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyronitrile (0.29 g.), m.p. 137°.

reactant | 4-[4-(3-[2,2,2-trifluoroethyl]thioureido)pyrimid-2-ylthio]butyronitrile | 0.32 g | FC(CNC(NC1=NC(=NC=C1)SCCCC#N)=S)(F)F | C11H12F3N5S2
reactant | ammonia | 20 ml | N | H3N
product | 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyronitrile | 0.29 g | FC(CN=C(NC1=NC(=NC=C1)SCCCC#N)N)(F)F | C11H13F3N6S
